US08685986B2
tert-Butyl(tert-butoxycarbonyl{6-[(pyridin-2-ylsulfonyl)aminomethyl]pyridin-2-yl}-amino)acetate
Reaction and post-treatment were carried out in the same manner as in Reference Example 12-(d) except for using tert-butyl[(6-aminomethylpyridin-2-yl)tert-butoxycarbonylamino]acetate (1.20 g, 3.56 mmol) obtained in Reference Example 12-(c), and using 2-pyridylsulfonyl chloride (640 mg, 3.60 mmol) in place of 3-pyridylsulfonyl chloride to afford the title compound (1.46 g) as a white solid. (Yield: 86%)

reactant | tert-butyl[(6-aminomethylpyridin-2-yl)tert-butoxycarbonylamino]acetate | 3.56 mmol, 1.20 g | C(C)(C)(C)OC(CN(C(=O)OC(C)(C)C)C1=NC(=CC=C1)CN)=O | C17H27N3O4
reactant | 2-pyridylsulfonyl chloride | 3.60 mmol, 640 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | tert-Butyl(tert-butoxycarbonyl{6-[(pyridin-2-ylsulfonyl)aminomethyl]pyridin-2-yl}-amino)acetate | 1.46 g, Yield: 86% | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)CNS(=O)(=O)C1=NC=CC=C1)C(=O)OC(C)(C)C)=O | C22H30N4O6S
